US04889856
Step B: Preparation of 4-Chloro-2-cyclopropyldihydrothieno[3,4-d]pyrimidine
2-Cyclopropyl-4-hydroxydihydrothieno[3,4-d]pyrimidine (2.4 g, 0.0123M) was refluxed in phosphorus oxychloride (40 ml) for 11/2 hours. The mixture was cooled, concentrated under vacuum, the residue dissolved in chloroform, poured over ice, and basified with ammonia. The layers were separated and the organic solution dried (MgSO4) and concentrated. The residue, chromatographed on silica eluting with ethyl acetate/hexane, (1/6) gave 2.2 g of product, m.p. 86.5°-88.5° C. the structure of which was confirmed by NMR.

reactant | 2-Cyclopropyl-4-hydroxydihydrothieno[3,4-d]pyrimidine | 0.0123M, 2.4 g | C1(CC1)C1N=C(C=2C(N1)=CSC2)O | C9H10N2OS
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-cyclopropyldihydrothieno[3,4-d]pyrimidine | 2.2 g | ClC=1C=2C(NC(N1)C1CC1)=CSC2 | C9H9ClN2S
